US05885985
A stirred solution of 4-chlorophenyl isothiocyanate (10.0 g, 0.077 mol) in 100 ml ether was saturated with ammonia gas for five minutes. The reaction mixture was then stirred for 18 hr. The white solid which precipitated was collected by filtration and yielded 6.3 g of N-(4-chlorophenyl)thiourea, M.P. 147°-148° C.

reactant | 4-chlorophenyl isothiocyanate | 0.077 mol, 10.0 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | ammonia | N | H3N
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(4-chlorophenyl)thiourea | 6.3 g | ClC1=CC=C(C=C1)NC(=S)N | C7H7ClN2S
